US06803378B2
3-(4-Fluorobenzyloxy)-benzoic acid
Saponification of methyl 3-(4-fluorobenzyloxy)-benzoate as described in the preparation of Intermediate 1B gave the title acid as white needles: mp 145-146° C. (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 5.11 (2H, s, OCH2), 7.12 (2H, m, aromatics), 7.24 (1 H, m, aromatics), 7.45 (3 H, m, aromatics), 7.75 (2H, m, aromatics). Anal. Calcd for C14H11FO3: C, 68.29; H, 4.50. Found: C, 68.39; H, 4.43.

reactant | methyl 3-(4-fluorobenzyloxy)-benzoate | FC1=CC=C(COC=2C=C(C(=O)OC)C=CC2)C=C1 | C15H13FO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Fluorobenzyloxy)-benzoic acid | FC1=CC=C(COC=2C=C(C(=O)O)C=CC2)C=C1 | C14H11FO3
